US06921821B2
6-Chloro-4-hydroxy-1-(2,2,2-trifluoroethyl)-1H-quinolin-2-one
N-(4-Chlorophenyl)-N-(2,2,2-trifluoroethyl)malonamic acid t-butyl ester (2.86 g, 8.1 mmol) was dissolved in methane sulfonic acid (50 mL) under argon with stirring prior to treatment with phosphorus pentoxide (0.51 g). The mixture was heated to 100° C. for 25 minutes. Analysis by LC/MS indicated the reaction was complete and the solution was cooled in an ice bath before quenching with ice and deionized water. The product precipitated and was collected by filtration. The filter cake was washed with ice water followed by cold chloroform and dried on high vacuum to give the title compound (1.83 g). 1H NMR (300 MHz, DMSO-d6) δ ppm 5.10 (2H, q, J=9.0 Hz), 5.97 (1H, s), 7.63 (2H, m), 7.79 (1H, m), 12.09 (1H, br s).

reactant | N-(4-Chlorophenyl)-N-(2,2,2-trifluoroethyl)malonamic acid t-butyl ester | 8.1 mmol, 2.86 g | C(C)(C)(C)OC(CC(=O)N(CC(F)(F)F)C1=CC=C(C=C1)Cl)=O | C15H17ClF3NO3
reactant | phosphorus pentoxide | 0.51 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | methane sulfonic acid | 50 mL | CS(=O)(=O)O | CH4O3S
product | 6-Chloro-4-hydroxy-1-(2,2,2-trifluoroethyl)-1H-quinolin-2-one | 1.83 g | ClC=1C=C2C(=CC(N(C2=CC1)CC(F)(F)F)=O)O | C11H7ClF3NO2
